US08114874B2
1-(2-Chloro-4-nitrobenzyl)-4-methylpiperazine:
To a solution of crude 1-(bromomethyl)-2-chloro4-nitro-benzene (29.1 mmol; 50% pure) in 30 mL of DCM was added Et3N (4.2 mL, 30 mmol) and 1-methylpiperazine (3.4 mL, 30 mmol). After stirring for 3 h at ambient temperature, aq. NaHCO3 was added and the mixture was extracted with DCM. The combined organic layer was dried over Na2SO4, filtered, concentrated, and the resulting residue was purified by silica gel chromatography (eluted with 5% MeOH/DCM) to provide 6.80 g of product as a dark yellow oil.

reactant | 1-(bromomethyl)-2-chloro4-nitro-benzene | 29.1 mmol | BrCC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C7H5BrClNO2
reactant | Et3N | 30 mmol, 4.2 mL | CCN(CC)CC | C6H15N
reactant | 1-methylpiperazine | 30 mmol, 3.4 mL | CN1CCNCC1 | C5H12N2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-Chloro-4-nitrobenzyl)-4-methylpiperazine | 6.80 g | ClC1=C(CN2CCN(CC2)C)C=CC(=C1)[N+](=O)[O-] | C12H16ClN3O2
